US03984465
2-Ethyl-2-n-propyl-5-methoxy-6,7-dichloro-1-indanone is prepared following substantially the same procedure described in Example 5, Step E, using the following substances: 2-ethyl-5-methoxy-6,7-dichloro-1-indanone (13 g., 0.05 mole), sodium hydride (1.3 g., 0.055 mole), 1,2-dimethoxyethane (500 ml.) and n-propyliodide (6 ml.). The above procedure gives 6.0 g. of 2-ethyl-2-n-propyl-5-methoxy-6,7-dichloro-1-indanone which after recrystallization from ethanol melts at 92° C.

reactant | 2-ethyl-5-methoxy-6,7-dichloro-1-indanone | 0.05 mole, 13 g | C(C)C1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C12H12Cl2O2
reactant | sodium hydride | 0.055 mole, 1.3 g | [H-].[Na+]
reactant | n-propyliodide | 6 ml | C(CC)I | C3H7I
solvent | 1,2-dimethoxyethane | 500 ml | COCCOC | C4H10O2
product | 2-Ethyl-2-n-propyl-5-methoxy-6,7-dichloro-1-indanone | C(C)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)CCC | C15H18Cl2O2
